US08168667B2
Methyl 2-(4-acetoxyphenyl)-2-bromoacetate
9.5 g of NBS and 0.7 g of AIBN are added to a solution of 10 g of methyl(4-acetoxyphenyl)acetate in 100 mL of carbon tetrachloride in a 500 mL flask equipped with a magnetic stirrer and a condenser. After 16 hours under reflux, the mixture is filtered, the solid is washed with dichloromethane then the filtrate is concentrated. The residue is purified over a silica column with pure dichloromethane to yield 13 mg of expected product (oil, Yd=95%).

reactant | NBS | 9.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.7 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | methyl(4-acetoxyphenyl)acetate | 10 g | COC(CC1=CC=C(C=C1)OC(C)=O)=O | C11H12O4
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 2-(4-acetoxyphenyl)-2-bromoacetate | 13 mg, 95% | C(C)(=O)OC1=CC=C(C=C1)C(C(=O)OC)Br | C11H11BrO4
